US06150373
A solution of 160 mg (0.253 mmol) of 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[4-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.5 ml of hydrazine hydrate in 5 ml of ethanol was stirred at room temperature under an atmosphere of nitrogen for 4 hours. The reaction mixture was evaporated and the residue purified by flash chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) as the eluent. Product containing fractions were combined and evaporated and the residue re-evaporated with toluene. The residue was then dissolved in 20 ml of dichloromethane, washed with saturated aqueous sodium bicarbonate (20 ml), dried over magnesium sulfate, filtered and evaporated to give 55 mg (43%) of 1-[4-(aminomethyl)phenyl]-7-anilino-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 133-136° C. [Mass spectrum (ESI) MH+ =501].

reactant | 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[4-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.253 mmol, 160 mg | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)C2=CC=C(C=C2)CN2C(C=1C(C2=O)=CC=CC1)=O | C33H23BrN6O3
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[4-(aminomethyl)phenyl]-7-anilino-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 55 mg, 43% | NCC1=CC=C(C=C1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=CC=C2)Br)=O | C25H21BrN6O
